US04770503
A mixture of 3.33 g of crude propyl p-[trans-4-(5-hexenyl)cyclohexyl]phenylcarbamate and 150 ml of a 10 percent solution of potassium hydroxide in diethylene glycol/water (vol. 4:1) was boiled at 120° C. for 2 hours, then cooled to room temperature and partitioned between 150 ml of methylene chloride and 150 ml of water. The aqueous phase was back-extracted twice with 150 ml of methylene chloride each time. The organic phases were washed twice with 100 ml of water each time, dried over magnesium sulphate and concentrated. Low-pressure chromatography (0.5 bar) of the brown, crystalline residue (3 g) on 70 g of silica gel with ethyl acetate/petroleum ether (vol. 20:80) gave 2.18 g (88%) of p-[trans-4-(5-hexenyl)cyclohexyl]aniline as light yellowish crystals (purity 98.1%); Rf value 0.20 (ethyl acetate/petroleum ether vol. 1:5).

reactant | propyl p-[trans-4-(5-hexenyl)cyclohexyl]phenylcarbamate | 3.33 g | C(CCCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)NC(OCCC)=O | C22H33NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol water | C(COCCO)O.O
product | p-[trans-4-(5-hexenyl)cyclohexyl]aniline | 2.18 g, 88% | C(CCCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(N)C=C1 | C18H27N
